US06660738B2
A mixture of 2.08 g (4 mmol)(2S,4R)-2-(2,4,5-Trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidine, 0.687 g (6 mmol) 2-chloropyrimidine and 1.16 ml (6.8 mmol) N-ethyldiisopropylamine was heated for 3 h at 80° C. The reaction was cooled and partitioned between H2O/Et2O (3×300). The organic phases were washed with aqueous saturated NaHCO3, aqueous 10% NaCl, dried (NaSO4) and evaporated. Flash chromatography on silica gel (CH2Cl2/EtOAc 97.5:2.5) gave 1.7 g (71%) (2S,4R)-2-[2-(2,4,5-Trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine, MS: 598 (MH+).

reactant | (2S,4R)-2-(2,4,5-Trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidine | 4 mmol, 2.08 g | FC1=C(COC[C@H]2NC[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C(=C1)F)F | C31H28F3NOS
reactant | 2-chloropyrimidine | 6 mmol, 0.687 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | N-ethyldiisopropylamine | 6.8 mmol, 1.16 ml | C(C)N(C(C)C)C(C)C | C8H19N
product | (2S,4R)-2-[2-(2,4,5-Trifluoro-benzyloxymethyl)-4-tritylsulfanyl-pyrrolidin-1-yl]-pyrimidine | 1.7 g, 71% | FC1=C(COC[C@H]2N(C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=NC=CC=N2)C=C(C(=C1)F)F | C35H30F3N3OS
